US06599925B2
1-[2-(6-Methoxy-2-naphthyl)-1-benzofuran-3-yl]-3,3-dimethyl-1-butanone
Following the procedure described in Step 2 of Example 1, the title compound was prepared from 2-(6-methoxy-2-naphthyl)-1-benzofuran (3.00 g, 10.9 mmol), t-butyl acetyl chloride (2.3 mL, 16 mmol), and tin (IV) chloride (1.7 mL, 14 mmol) in chloroform (60 mL). The reaction mixture was refluxed for 24 hours. Purification by HPLC using 7-8% ethyl acetate in hexane as the mobile phase yielded a yellow solid (1.09 g), mp ˜140° C. 1HNMR (200 MHz, DMSO-d6): δ8.35 (s, 1H), 7.9-8.1 (m, 3H), 7.7-7.85 (m, 2H), 7.35-7.5 (m, 3H), 7.3 (d, 1H, J=9.0 Hz), 3.95 (s, 3H), 2.75 (s, 2H), and 0.85 ppm (s, 9H).

reactant | 2-(6-methoxy-2-naphthyl)-1-benzofuran | 10.9 mmol, 3.00 g | COC=1C=C2C=CC(=CC2=CC1)C=1OC2=C(C1)C=CC=C2 | C19H14O2
reactant | t-butyl acetyl chloride | 16 mmol, 2.3 mL | C(C)(C)(C)CC(=O)Cl | C6H11ClO
reactant | tin (IV) chloride | 14 mmol, 1.7 mL | [Sn](Cl)(Cl)(Cl)Cl
solvent | chloroform | 60 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-[2-(6-Methoxy-2-naphthyl)-1-benzofuran-3-yl]-3,3-dimethyl-1-butanone | COC=1C=C2C=CC(=CC2=CC1)C=1OC2=C(C1C(CC(C)(C)C)=O)C=CC=C2 | C25H24O3
